US07772271B2
To a solution of {4-[6-(2-Chloro-ethoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester (800 mg, 1.67 mmol) in 1:4 DMF/CH3CN (8 mL) is added sodium iodide (2.50 g, 16.7 mmol). The resulting mixture was refluxed overnight. An aqueous workup was performed in 0.5M HCl (200 mL) and extracted with EtOAc (2×100 mL). Organic layers were combined, dried over MgSO4 and concentrated. Solid product was triturated with ether and used without further purification. To 4 mL of a DMF solution containing the iodoethyl intermediate (0.56 mmol) was added the sodium methane sulfinate (113 mg, 1.11 mmol), and the reaction was stirred at room temperature overnight. An aqueous workup was performed in 0.5M HCl (200 mL) and extracted with EtOAc (2×100 mL). The organic layers were combined, dried over MgSO4 and concentrated. The mixture was purified over silica gel column (CH2Cl2) to provide 100 mg (35% yield) of {4-[3-Cyano-1-cyclobutyl-6-(2-methanesulfonyl-ethoxy)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropylethyl ester, as an off-white powder.

reactant | {4-[6-(2-Chloro-ethoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester | 1.67 mmol, 800 mg | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCCl)C1CCC1)=O | C27H28ClN3O3
reactant | DMF CH3CN | 8 mL | CN(C)C=O.CC#N
reactant | sodium iodide | 16.7 mmol, 2.50 g | [I-].[Na+]
reactant | sodium methane sulfinate | 1.11 mmol, 113 mg | CS(=O)[O-].[Na+]
solvent | HCl | 0.5M, 200 mL | Cl | ClH
solvent | HCl | 0.5M, 200 mL | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | {4-[3-Cyano-1-cyclobutyl-6-(2-methanesulfonyl-ethoxy)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropylethyl ester | 100 mg, 35% yield | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCS(=O)(=O)C)C1CCC1)=O | C28H31N3O5S
